US07235574B2
iii) 1-Hex-5-ynyl-4-methoxy-benzene
A mixture of 3.20 g (12.3 mmol) [6-(4-methoxy-phenyl)-hex-1-ynyl]-trimethyl-silane, 50 ml methanol and 12.3 ml (24.6 mmol) 2N NaOH was stirred for 2 h at r.t. After neutralization with 13 ml 2N HCl methanol was distilled off and the aqueous phase extracted with diethyl ether. Drying (Na2SO4) and removal of solvents in vacuo gave 1.80 g (78%) of the title compound.

reactant | [6-(4-methoxy-phenyl)-hex-1-ynyl]-trimethyl-silane | 12.3 mmol, 3.20 g | COC1=CC=C(C=C1)CCCCC#C[Si](C)(C)C | C16H24OSi
reactant | NaOH | 24.6 mmol, 2N, 12.3 ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 1-Hex-5-ynyl-4-methoxy-benzene | 1.80 g, 78% | C(CCCC#C)C1=CC=C(C=C1)OC | C13H16O
